US07300951B2
To a solution of amino(6,6-difluorobicyclo[3.1.0]hex-3-yl)acetic acid (1.0 g, 5.23 mmol) in CH2Cl2:MeOH (4:1) was added dropwise TMSCHN2 (10.5 mL) over 10 min at 0° C. until a neon yellow color persisted. The reaction mixture was allowed to warm to 25° C. over 19h. The solvent was removed in vacuo to obtain methyl amino(6,6-difluorobicyclo[3.1.0]hex-3-yl)acetate as a light yellow oil (0.9 g, 84.11%). Mass Spectrum (−ESI): 206 (M+H)+.

reactant | amino(6,6-difluorobicyclo[3.1.0]hex-3-yl)acetic acid | 5.23 mmol, 1.0 g | NC(C(=O)O)C1CC2C(C2C1)(F)F | C8H11F2NO2
reactant | TMSCHN2 | 10.5 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | methyl amino(6,6-difluorobicyclo[3.1.0]hex-3-yl)acetate | 0.9 g, 84.11% | NC(C(=O)OC)C1CC2C(C2C1)(F)F | C9H13F2NO2
